US06265446B1
A solution of 0.547 g of (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-4-methyl-2′-[2-(2-pyridyl)ethanesulphonyl]-valerohydrazide in 5 ml of methanol was treated with 4 ml of a 1 M solution of hydrogen chloride in dioxan. The mixture was stirred at room temperature for 3 hours and evaporated. The residue was triturated with diethyl ether to give 0.463 g of (E)-2(R)-[1(S)-(hydroxycarbamoyl)-4-phenyl-3-butenyl]-2′-isobutyl-4-methyl-2′-[2-(2-pyridyl)ethanesulphonyl]valerohydrazide hydrochloride in the form of a white solid.

reactant | (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-4-methyl-2′-[2-(2-pyridyl)ethanesulphonyl]-valerohydrazide | 0.547 g | O1C(CCCC1)ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN(S(=O)(=O)CCC1=NC=CC=C1)CC(C)C)CC(C)C | C33H48N4O6S
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
solvent | dioxan | O1CCOCC1 | C4H8O2
product | (E)-2(R)-[1(S)-(hydroxycarbamoyl)-4-phenyl-3-butenyl]-2′-isobutyl-4-methyl-2′-[2-(2-pyridyl)ethanesulphonyl]valerohydrazide hydrochloride | 0.463 g | Cl.ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN(S(=O)(=O)CCC1=NC=CC=C1)CC(C)C)CC(C)C | InChI=1S/C28H40N4O5S.ClH/c1-21(2)19-26(25(28(34)31-35)15-10-13-23-11-6-5-7-12-23)27(33)30-32(20-22(3)4)38(36,37)18-16-24-14-8-9-17-29-24;/h5-14,17,21-22,25-26,35H,15-16,18-20H2,1-4H3,(H,30,33)(H,31,34);1H/b13-10+;/t25-,26+;/m0./s1
